US04581369
A Grignard reagent which is prepared by reacting 0.46 g of magnesium with 3 g of methyl iodide in 30 ml of ether is added to a suspension of 4.5 g of 2-(1-imidazolyl)-5-(4-chlorobenzoyl)pyridine in 50 ml of ether at -5° C. After the mixture is stirred at room temperature for an hour, the reaction mixture is poured into an aqueous ammonium chloride solution with caution. The precipitate is extracted with chloroform and the chloroform is distilled off. The residue is recrystallized from toluene to give 4.1 g of 1-[2-(1-imidazolyl)-5-pyridyl]-1-(4-chlorophenyl)ethanol in 90.3% yields as white crystals, melting at 140°-142° C.

reactant | magnesium | 0.46 g | [Mg] | Mg
reactant | methyl iodide | 3 g | CI | CH3I
reactant | 2-(1-imidazolyl)-5-(4-chlorobenzoyl)pyridine | 4.5 g | N1(C=NC=C1)C1=NC=C(C=C1)C(C1=CC=C(C=C1)Cl)=O | C15H10ClN3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-[2-(1-imidazolyl)-5-pyridyl]-1-(4-chlorophenyl)ethanol | 4.1 g | N1(C=NC=C1)C1=NC=C(C=C1)C(C)(O)C1=CC=C(C=C1)Cl | C16H14ClN3O
